************************************************************************
* auCdl Netlist:
*
* Library Name:  SAR_DSM_7nm
* Top Cell Name: PIPE_SAR_DSM_ADC_12b
* View Name:     schematic
* Technology:    Samsung 7nm FinFET (SF7P process)
* VDD_CORE:      0.8V   (analog / digital core)
* Resolution:    12-bit
* Sample Rate:   600 MS/s  (2x-interleaved, 300 MS/s per DSM channel)
* Architecture:  Pipelined SAR (1st stage, 7b) +
*                2x-Interleaved CT Incremental Delta-Sigma (2nd stage, 6.5b) +
*                Source-Follower-Based Residue-Transfer Scheme
* SNDR:          58.2 dB @ 300 MS/s  /  56.6 dB @ 600 MS/s (measured)
* SFDR:          79.4 dB @ 300 MS/s  /  71.1 dB @ 600 MS/s (measured)
* Power:         13 mW @ 0.8V, 600 MS/s  (RT-BUF alone: 0.7 mW)
* FoM_Walden:    45.6 fJ/conv-step @ Nyquist
* FoM_Schreier:  158.9 dB @ Nyquist
* Die Area:      0.037 mm^2  (160 um x 230 um)
* Gain Cal:      NONE  (replica-based inter-stage gain matching)
* Reference:     Baek et al., ISSCC 2021, Session 10.5
*                "A 12b 600MS/s Pipelined SAR and 2x-Interleaved Incremental
*                 Delta-Sigma ADC with Source-Follower-Based Residue-Transfer
*                 Scheme in 7nm FinFET", Samsung Electronics, Korea
* Date:          2026-06-01
************************************************************************

.PARAM
+ VDD_CORE=0.8
+ VCM=0.4
+ VREF=0.8
+ FS=600MEG
+ FCLK_DSM=4.8G
+ CU=2.7F
+ NFIN_N=2
+ NFIN_P=2

* ---------------------------------------------------------------
* FinFET primitive model mapping  (Samsung SF7P / 7nm)
*   N_SF7  : nFinFET  Wfin=7n  Lfin=7n  (Hfin~52nm)
*   P_SF7  : pFinFET  Wfin=7n  Lfin=7n
* Note: W = Nfin x Wfin_eff; use M= for multiplicity
*       1 fin -> Weff ~ 6nm (contacted poly pitch ~54nm)
* ---------------------------------------------------------------

* ---------------------------------------------------------------
* Standard cell primitives  (SF7P)
* ---------------------------------------------------------------
.SUBCKT INV VDD VIN VOUT VSS
MM0  VOUT VIN VSS  VSS  N_SF7 W=42n L=7n M=2
MM1  VOUT VIN VDD  VDD  P_SF7 W=42n L=7n M=2
.ENDS

.SUBCKT INV_X4 VDD VIN VOUT VSS
MM0  net_x  VIN VSS  VSS  N_SF7 W=42n L=7n M=4
MM1  net_x  VIN VDD  VDD  P_SF7 W=42n L=7n M=4
MM2  VOUT net_x VSS  VSS  N_SF7 W=42n L=7n M=8
MM3  VOUT net_x VDD  VDD  P_SF7 W=42n L=7n M=8
.ENDS

.SUBCKT NAND2 A B VDD VOUT VSS
MM0  VOUT A   VDD  VDD  P_SF7 W=42n L=7n M=2
MM1  VOUT B   VDD  VDD  P_SF7 W=42n L=7n M=2
MM2  VOUT A   net0 VSS  N_SF7 W=42n L=7n M=4
MM3  net0 B   VSS  VSS  N_SF7 W=42n L=7n M=4
.ENDS

.SUBCKT NOR2 A B VDD VOUT VSS
MM0  net0 A   VDD  VDD  P_SF7 W=84n L=7n M=4
MM1  VOUT B   net0 VDD  P_SF7 W=84n L=7n M=4
MM2  VOUT A   VSS  VSS  N_SF7 W=42n L=7n M=2
MM3  VOUT B   VSS  VSS  N_SF7 W=42n L=7n M=2
.ENDS

.SUBCKT AND2 A B VDD VOUT VSS
XI0  A B VDD net_nd VSS / NAND2
XI1  VDD net_nd VOUT VSS / INV
.ENDS

* ---------------------------------------------------------------
* TG_SF7  -- 7nm transmission gate
* ---------------------------------------------------------------
.SUBCKT TG_SF7 CLK CLK_B VDD VIN VOUT VSS
MM0  VIN CLK   VOUT VSS  N_SF7 W=42n L=7n M=2
MM1  VIN CLK_B VOUT VDD  P_SF7 W=42n L=7n M=2
.ENDS

* ---------------------------------------------------------------
* DFF_SR_N7  -- D flip-flop (master-slave)
*   Used in SAR shift register (EOC) and ASC calibration
* ---------------------------------------------------------------
.SUBCKT DFF_SR_N7 CK D VDD Q QB VSS
XI_ck_inv  VDD CK   net_ckb VSS / INV
XI_tg0     CK  net_ckb VDD D     net_m  VSS / TG_SF7
XI_inv0    VDD net_m   net_mb    VSS / INV
XI_tg1     net_ckb CK  VDD net_m  net_mb VSS / TG_SF7
XI_tg2     net_ckb CK  VDD net_m  net_s  VSS / TG_SF7
XI_inv1    VDD net_s    net_sb    VSS / INV
XI_tg3     CK  net_ckb VDD net_s  net_sb VSS / TG_SF7
XI_inv_q   VDD net_s    Q         VSS / INV
XI_inv_qb  VDD Q        QB        VSS / INV
.ENDS

* ---------------------------------------------------------------
* Bootstrap_SW_SF7  -- Bootstrapped bottom-plate sampling switch
*   Constant Vgs -> signal-independent Ron for linearity
*   Per paper: bootstrapped bottom-plate sampling in 1st stage
* ---------------------------------------------------------------
.SUBCKT Bootstrap_SW_SF7 CK VDD VIN VOUT VSS
MM_sw    VOUT    net_g   VIN      VSS  N_SF7 W=84n L=7n  M=4
MM_bs1   VIN     net_g   net_fly  VSS  N_SF7 W=42n L=7n  M=2
MM_bs2   net_fly net_off VSS      VSS  N_SF7 W=42n L=7n  M=2
MM_bs3   net_bs3 net_off VSS      VSS  N_SF7 W=42n L=7n  M=2
MM_pg    net_g   net_off net_fly  net_fly P_SF7 W=42n L=7n M=2
MM_chg   net_fly net_off VDD      net_fly P_SF7 W=42n L=7n M=2
CC_fly   net_fly net_bs3 3.2f     $[MOMCAP_SF7] M=4
XI_inv   VDD CK net_off VSS / INV
.ENDS

* ---------------------------------------------------------------
* CDAC_SW_SF7  -- CDAC switch cell (differential monotonic)
*   Bottom-plate drives REFP/REFN per SAR bit decision
*   M_TG scales switch width by bit weight (M=64 for MSB)
* ---------------------------------------------------------------
.SUBCKT CDAC_SW_SF7 D REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=1
XI_inv0  VDD SAMPLE  net_sl0 VSS / INV
XI_inv1  VDD D       net_sl1 VSS / INV
XI_inv2  VDD net_sl3 net_sl2 VSS / INV
XI_inv3  VDD net_sl4 net_sl5 VSS / INV
XI_and0  net_sl1 net_sl0 VDD net_sl3 VSS / AND2
XI_and1  D net_sl0 VDD net_sl6 VSS / AND2
XI_inv4  VDD net_sl6 net_sl4 VSS / INV
MM_sp0  VINP  SAMPLE  VOUTP VSS  N_SF7 W=42n L=7n M='M_TG'
MM_sp1  VINP  SAMPLE  VOUTP VDD  P_SF7 W=42n L=7n M='M_TG'
MM_rp0  REFP  net_sl3 VOUTP VSS  N_SF7 W=42n L=7n M='M_TG'
MM_rp1  REFP  net_sl2 VOUTP VDD  P_SF7 W=42n L=7n M='M_TG'
MM_np0  REFN  net_sl4 VOUTP VSS  N_SF7 W=42n L=7n M='M_TG'
MM_np1  REFN  net_sl5 VOUTP VDD  P_SF7 W=42n L=7n M='M_TG'
MM_sn0  VINN  SAMPLE  VOUTN VSS  N_SF7 W=42n L=7n M='M_TG'
MM_sn1  VINN  SAMPLE  VOUTN VDD  P_SF7 W=42n L=7n M='M_TG'
MM_rn0  REFN  net_sl3 VOUTN VSS  N_SF7 W=42n L=7n M='M_TG'
MM_rn1  REFN  net_sl2 VOUTN VDD  P_SF7 W=42n L=7n M='M_TG'
MM_nn0  REFP  net_sl4 VOUTN VSS  N_SF7 W=42n L=7n M='M_TG'
MM_nn1  REFP  net_sl5 VOUTN VDD  P_SF7 W=42n L=7n M='M_TG'
.ENDS

* ---------------------------------------------------------------
* CDAC_7b_SF7  -- 7-bit binary-weighted CDAC
*   Cu = 2.7 fF  -> Total per side = 128 x 2.7fF = 345.6 fF
*   Differential total sampling cap = 691.2 fF ~ 690 fF (per paper)
*   MSB = 64Cu, LSB = 1Cu, plus 1Cu termination dummy
*   1.5b redundancy: inter-stage offset trimmed via CDAC offset code
* ---------------------------------------------------------------
.SUBCKT CDAC_7b_SF7 B6 B5 B4 B3 B2 B1 B0
+  REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS
CC_tp_p   VOUTP VSS 345.6f $[MOMCAP_SF7] M=1
CC_tp_n   VOUTN VSS 345.6f $[MOMCAP_SF7] M=1
CC_par_p  VOUTP VSS  17.3f $[MOMCAP_SF7] M=1
CC_par_n  VOUTN VSS  17.3f $[MOMCAP_SF7] M=1
XI_b6  B6 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=64 / CDAC_SW_SF7
XI_b5  B5 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=32 / CDAC_SW_SF7
XI_b4  B4 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=16 / CDAC_SW_SF7
XI_b3  B3 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=8  / CDAC_SW_SF7
XI_b2  B2 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=4  / CDAC_SW_SF7
XI_b1  B1 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=2  / CDAC_SW_SF7
XI_b0  B0 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=1  / CDAC_SW_SF7
XI_tm  B0 REFN REFP SAMPLE VDD VINP VINN VOUTP VOUTN VSS M_TG=1  / CDAC_SW_SF7
.ENDS

* ---------------------------------------------------------------
* COMP_DYN_SF7  -- Dynamic Strong-ARM latch comparator
*   No static current; clocked by CKASC
*   Replicated as dummy in DSM FB path for parasitic matching
*   (Fig. 10.5.2: dummy comparator in feedback path)
* ---------------------------------------------------------------
.SUBCKT COMP_DYN_SF7 CK VDD VINP VINN VOUTP VOUTN VSS
MM_pp    VOUTP CK    VDD   VDD  P_SF7 W=84n  L=7n M=4
MM_pn    VOUTN CK    VDD   VDD  P_SF7 W=84n  L=7n M=4
MM_rp    VOUTP VOUTN VDD   VDD  P_SF7 W=42n  L=7n M=2
MM_rn    VOUTN VOUTP VDD   VDD  P_SF7 W=42n  L=7n M=2
MM_inp   VINTP VINP  net_s VSS  N_SF7 W=126n L=7n M=6
MM_inn   VINTN VINN  net_s VSS  N_SF7 W=126n L=7n M=6
MM_op    VOUTP VINTP net_s VSS  N_SF7 W=84n  L=7n M=4
MM_on    VOUTN VINTN net_s VSS  N_SF7 W=84n  L=7n M=4
MM_tail  net_s CK    VSS   VSS  N_SF7 W=84n  L=7n M=4
.ENDS

* ---------------------------------------------------------------
* RT_BUF_SF7  -- Source-Follower Residue Transfer Buffer
*   Paper key innovation: open-loop SF TRANSFERS residue (no gain)
*   Non-amplified small residue resolved by wide-DR DSM 2nd stage
*   Power: 0.7 mW @ 0.8V  =>  Ibias = 875 uA total differential
*   PVT robust; design complexity relaxed; no gain calibration
* ---------------------------------------------------------------
.SUBCKT RT_BUF_SF7 VDD VINP VINN VOUTP VOUTN VBIAS VSS
MM_sfp   VOUTP VINP  VS_P  VSS  N_SF7 W=504n L=7n  M=12
MM_sfn   VOUTN VINN  VS_N  VSS  N_SF7 W=504n L=7n  M=12
MM_bp    VS_P  VBIAS VDD   VDD  P_SF7 W=252n L=14n M=6
MM_bn    VS_N  VBIAS VDD   VDD  P_SF7 W=252n L=14n M=6
CC_byp_p VS_P  VSS   20.0f $[MOMCAP_SF7] M=2
CC_byp_n VS_N  VSS   20.0f $[MOMCAP_SF7] M=2
CC_ld_p  VOUTP VSS   50.0f $[MOMCAP_SF7] M=4
CC_ld_n  VOUTN VSS   50.0f $[MOMCAP_SF7] M=4
.ENDS

* ---------------------------------------------------------------
* FB_BUF_SF7  -- Feedback Path Replica (FB-BUF)
*   Replicates CDAC + RT_BUF in DSM feedback path
*   Ensures A_SIG / A_FB = 1  ->  gain mismatch term = 0
*   (Equation in Fig. 10.5.2: Dout = Vin + noise-shaping term)
*   Shared VBIAS + adjacent layout for chip-to-chip PVT tracking
*   7b CDAC also used for inter-stage OFFSET calibration
* ---------------------------------------------------------------
.SUBCKT FB_BUF_SF7 VDD DSMQ REFN REFP VCM VOUTP VOUTN VBIAS VSS
XI_rcdac  DSMQ DSMQ DSMQ DSMQ DSMQ DSMQ DSMQ
+  REFN REFP VCM VDD REFP REFN net_fbp net_fbn VSS / CDAC_7b_SF7
XI_rtsf   VDD net_fbp net_fbn VOUTP VOUTN VBIAS VSS / RT_BUF_SF7
XI_dcomp  VCM VDD net_fbp net_fbn net_dcp net_dcn VSS / COMP_DYN_SF7
CC_dc_p   net_dcp VSS 5.0f $[MOMCAP_SF7] M=1
CC_dc_n   net_dcn VSS 5.0f $[MOMCAP_SF7] M=1
.ENDS

* ---------------------------------------------------------------
* GMC_INTEG_SF7  -- Gm-C Integrator for CT DSM 2nd stage
*   Gm-C enabled by coarse-resolved (small swing) residue input
*   Paper: "coarse-converted residue enables power-efficient Gm-C"
*   Active-RC not used due to higher power vs Gm-C here
*   Gm ~ 1 mA/V;  C_INT = 100 fF
* ---------------------------------------------------------------
.SUBCKT GMC_INTEG_SF7 VDD VINP VINN VOUTP VOUTN VBIAS VSS
MM_inp   net_ip VINP  net_t VSS  N_SF7 W=126n L=14n M=6
MM_inn   net_in VINN  net_t VSS  N_SF7 W=126n L=14n M=6
MM_lp    net_ip net_ip VDD  VDD  P_SF7 W=84n  L=14n M=4
MM_ln    net_in net_ip VDD  VDD  P_SF7 W=84n  L=14n M=4
MM_tail  net_t  VBIAS  VSS  VSS  N_SF7 W=84n  L=14n M=4
MM_outp  VOUTP  net_ip VDD  VDD  P_SF7 W=168n L=7n  M=8
MM_outn  VOUTN  net_in VDD  VDD  P_SF7 W=168n L=7n  M=8
MM_op_n  VOUTP  net_in VSS  VSS  N_SF7 W=84n  L=7n  M=4
MM_on_n  VOUTN  net_ip VSS  VSS  N_SF7 W=84n  L=7n  M=4
CC_intp  VOUTP VSS 100.0f $[MOMCAP_SF7] M=8
CC_intn  VOUTN VSS 100.0f $[MOMCAP_SF7] M=8
CC_sump  VOUTP VSS  50.0f $[MOMCAP_SF7] M=4
CC_sumn  VOUTN VSS  50.0f $[MOMCAP_SF7] M=4
.ENDS

* ---------------------------------------------------------------
* DSM_QUANT_1p5b  -- 1.5b (3-level) flash quantizer
*   Two COMP_DYN_SF7 with +/-Vref/4 effective thresholds
*   Output: QOUT_H (upper), QOUT_L (lower) thermometer codes
*   Registered outputs to suppress metastability propagation
* ---------------------------------------------------------------
.SUBCKT DSM_QUANT_1p5b CKDSM VDD VINP VINN VCM
+  QOUT_HP QOUT_HN QOUT_LP QOUT_LN VSS
XI_comp_h  CKDSM VDD VINP VINN QOUT_HP QOUT_HN VSS / COMP_DYN_SF7
XI_comp_l  CKDSM VDD VINN VINP QOUT_LP QOUT_LN VSS / COMP_DYN_SF7
XI_reg_hp  CKDSM QOUT_HP VDD QOUT_HP net_hpb VSS / DFF_SR_N7
XI_reg_hn  CKDSM QOUT_HN VDD QOUT_HN net_hnb VSS / DFF_SR_N7
XI_reg_lp  CKDSM QOUT_LP VDD QOUT_LP net_lpb VSS / DFF_SR_N7
XI_reg_ln  CKDSM QOUT_LN VDD QOUT_LN net_lnb VSS / DFF_SR_N7
.ENDS

* ---------------------------------------------------------------
* CT_DSM_CH_SF7  -- 2nd-order CT Incremental DSM (single channel)
*   6.5b resolution (including 1.5b redundancy)
*   300 MS/s operation; 14 cycles of 4.8 GHz CKDSM
*   Input = small residue from RT_BUF (coarse pre-quantized)
*   2nd-order noise shaping maximizes H(s) to minimize Q-noise
* ---------------------------------------------------------------
.SUBCKT CT_DSM_CH_SF7 CKDSM VDD
+  RESINP RESINN REFP REFN VCM VBIAS
+  BOUT5 BOUT4 BOUT3 BOUT2 BOUT1 BOUT0 VSS
XI_intg1  VDD RESINP RESINN VINT1P VINT1N VBIAS VSS / GMC_INTEG_SF7
XI_intg2  VDD VINT1P VINT1N VINT2P VINT2N VBIAS VSS / GMC_INTEG_SF7
CC_sum1p  VINT1P VSUMP 50.0f $[MOMCAP_SF7] M=4
CC_sum1n  VINT1N VSUMN 50.0f $[MOMCAP_SF7] M=4
CC_sum2p  VINT2P VSUMP 50.0f $[MOMCAP_SF7] M=4
CC_sum2n  VINT2N VSUMN 50.0f $[MOMCAP_SF7] M=4
XI_quant  CKDSM VDD VSUMP VSUMN VCM
+  net_qhp net_qhn net_qlp net_qln VSS / DSM_QUANT_1p5b
XI_fbuf   VDD net_qhp REFN REFP VCM net_fbp net_fbn VBIAS VSS / FB_BUF_SF7
G_fb_p    VINT1P VCM  net_fbp VCM  500u
G_fb_n    VINT1N VCM  net_fbn VCM  500u
XI_dreg5  CKDSM net_qhp VDD BOUT5 net_b5b VSS / DFF_SR_N7
XI_dreg4  CKDSM net_qhn VDD BOUT4 net_b4b VSS / DFF_SR_N7
XI_dreg3  CKDSM net_qlp VDD BOUT3 net_b3b VSS / DFF_SR_N7
XI_dreg2  CKDSM net_qln VDD BOUT2 net_b2b VSS / DFF_SR_N7
XI_dreg1  CKDSM net_qhp VDD BOUT1 net_b1b VSS / DFF_SR_N7
XI_dreg0  CKDSM net_qlp VDD BOUT0 net_b0b VSS / DFF_SR_N7
.ENDS

* ---------------------------------------------------------------
* ASC_CLK_GEN_SF7  -- Adaptive Speed-Controlled clock generator
*   Duration-fixed CKASC = 7 cycles per SAR conversion period
*   Background frequency calibration via delay-line controller
*   DAC settles immediately after comparator decision (async-like)
*   Fixed period guarantees robust SAR operation (sync-like)
*   CKSAMP provides low-jitter sampling; CKASC jitter relaxed
* ---------------------------------------------------------------
.SUBCKT ASC_CLK_GEN_SF7 CK_REF VDD CKASC EOC1 EOC0 GSEL VSS
XI_ro0   VDD net_ro1 net_ro0 VSS / INV
XI_ro1   VDD net_ro0 net_ro2 VSS / INV
XI_ro2   VDD net_ro2 net_ro1 VSS / INV
CC_sel0  net_ro0 VSS 0.5f $[MOMCAP_SF7] M=1
CC_sel1  net_ro1 VSS 0.5f $[MOMCAP_SF7] M=2
CC_sel2  net_ro2 VSS 0.5f $[MOMCAP_SF7] M=4
XI_obuf0 VDD net_ro1 net_asc_i VSS / INV
XI_obuf1 VDD net_asc_i CKASC   VSS / INV_X4
XI_sr0   CKASC net_sr0 VDD net_sr1 net_sr1b VSS / DFF_SR_N7
XI_sr1   CKASC net_sr1 VDD net_sr2 net_sr2b VSS / DFF_SR_N7
XI_sr2   CKASC net_sr2 VDD net_sr3 net_sr3b VSS / DFF_SR_N7
XI_sr3   CKASC net_sr3 VDD net_sr4 net_sr4b VSS / DFF_SR_N7
XI_sr4   CKASC net_sr4 VDD net_sr5 net_sr5b VSS / DFF_SR_N7
XI_sr5   CKASC net_sr5 VDD net_sr6 net_sr6b VSS / DFF_SR_N7
XI_sr6   CKASC net_sr6 VDD net_sr7 net_sr7b VSS / DFF_SR_N7
XI_eoc0  net_sr6 net_sr7 VDD EOC0 VSS / NAND2
XI_eoc1  net_sr5 net_sr6 VDD EOC1 VSS / NAND2
XI_dlc0  CK_REF EOC0 VDD net_dlc0 VSS / NAND2
XI_dlc1  CK_REF EOC1 VDD net_dlc1 VSS / NAND2
XI_gsel  VDD net_dlc0 GSEL VSS / INV
.ENDS

* ---------------------------------------------------------------
* SAR_LOGIC_7b  -- 7-bit SAR state machine
*   7 equally periodic cycles clocked by CKASC
*   Generates B[6:0] and CDAC control signals
*   Comparator offset removed via CDAC offset code (FB_BUF path)
* ---------------------------------------------------------------
.SUBCKT SAR_LOGIC_7b CKASC COMP_P COMP_N VDD
+  B6 B5 B4 B3 B2 B1 B0 EOC VSS
XI_br6  CKASC COMP_P VDD B6 net_b6b VSS / DFF_SR_N7
XI_br5  CKASC COMP_P VDD B5 net_b5b VSS / DFF_SR_N7
XI_br4  CKASC COMP_P VDD B4 net_b4b VSS / DFF_SR_N7
XI_br3  CKASC COMP_P VDD B3 net_b3b VSS / DFF_SR_N7
XI_br2  CKASC COMP_P VDD B2 net_b2b VSS / DFF_SR_N7
XI_br1  CKASC COMP_P VDD B1 net_b1b VSS / DFF_SR_N7
XI_br0  CKASC COMP_P VDD B0 net_b0b VSS / DFF_SR_N7
XI_eoc_inv VDD B0 EOC VSS / INV
.ENDS

* ---------------------------------------------------------------
* PIPE_SAR_DSM_CH  -- Full single-channel pipelined ADC
*   1st stage : 7b SAR + bootstrapped CDAC + COMP_DYN_SF7
*   Residue   : Source-follower RT_BUF (open-loop, 0.7 mW)
*   2nd stage : 2nd-order CT incremental DSM (6.5b, 300 MS/s)
*   Gain error: eliminated by FB_BUF_SF7 replica path (no cal)
*   Offset cal: foreground on-chip (1st<->2nd stage) via CDAC
* ---------------------------------------------------------------
.SUBCKT PIPE_SAR_DSM_CH
+  CKSAMP CKASC CKDSM VDD
+  VINP VINN REFP REFN VCM VBIAS RESET
+  B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 VSS
XI_bsp   CKSAMP VDD VINP net_sp VSS / Bootstrap_SW_SF7
XI_bsn   CKSAMP VDD VINN net_sn VSS / Bootstrap_SW_SF7
XI_cdac  net_b6 net_b5 net_b4 net_b3 net_b2 net_b1 net_b0
+  REFN REFP CKSAMP VDD net_sp net_sn net_rdp net_rdn VSS / CDAC_7b_SF7
XI_comp  CKASC VDD net_rdp net_rdn net_cp net_cn VSS / COMP_DYN_SF7
XI_asc   CKSAMP VDD net_asc CKASC net_eoc1 net_eoc0 net_gsel VSS / ASC_CLK_GEN_SF7
XI_sar   net_asc net_cp net_cn VDD
+  net_b6 net_b5 net_b4 net_b3 net_b2 net_b1 net_b0 net_eoc VSS / SAR_LOGIC_7b
XI_rtbuf VDD net_rdp net_rdn net_resp net_resn VBIAS VSS / RT_BUF_SF7
XI_dsm   CKDSM VDD net_resp net_resn REFP REFN VCM VBIAS
+  B5 B4 B3 B2 B1 B0 VSS / CT_DSM_CH_SF7
XI_rb11  CKSAMP net_b6 VDD B11 net_rb11b VSS / DFF_SR_N7
XI_rb10  CKSAMP net_b5 VDD B10 net_rb10b VSS / DFF_SR_N7
XI_rb9   CKSAMP net_b4 VDD B9  net_rb9b  VSS / DFF_SR_N7
XI_rb8   CKSAMP net_b3 VDD B8  net_rb8b  VSS / DFF_SR_N7
XI_rb7   CKSAMP net_b2 VDD B7  net_rb7b  VSS / DFF_SR_N7
XI_rb6   CKSAMP net_b1 VDD B6  net_rb6b  VSS / DFF_SR_N7
.ENDS

* ---------------------------------------------------------------
* PIPE_SAR_DSM_ADC_12b  -- TOP-LEVEL (2x-interleaved)
*   CH0 (0-deg) + CH1 (180-deg) -> 600 MS/s effective rate
*   Timing skew-free: 2nd stage samples residue, not input VIN
*   Only inter-channel offset calibration required (no gain cal)
*   Off-chip offset calibration performed between CH0 and CH1
* ---------------------------------------------------------------
.SUBCKT PIPE_SAR_DSM_ADC_12b
+  CKSAMP_CH0 CKSAMP_CH1
+  VINP VINN REFP REFN VCM
+  VDD VSS
+  B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 RESET
MM_bias_src  net_vbias net_vbias VDD VDD P_SF7 W=252n L=14n M=6
II_bias_ref  net_vbias VSS DC 875u
XI_asc_ref   VDD CKSAMP_CH0 net_asc_ref VSS / INV_X4
XI_dsm_clk0  VDD CKSAMP_CH0 CKDSM_CH0  VSS / INV_X4
XI_dsm_clk1  VDD CKSAMP_CH1 CKDSM_CH1  VSS / INV_X4
XI_ch0
+  CKSAMP_CH0 net_asc_ref CKDSM_CH0 VDD
+  VINP VINN REFP REFN VCM net_vbias RESET
+  net_b11_0 net_b10_0 net_b9_0 net_b8_0 net_b7_0 net_b6_0
+  net_b5_0  net_b4_0  net_b3_0 net_b2_0 net_b1_0 net_b0_0 VSS / PIPE_SAR_DSM_CH
XI_ch1
+  CKSAMP_CH1 net_asc_ref CKDSM_CH1 VDD
+  VINP VINN REFP REFN VCM net_vbias RESET
+  net_b11_1 net_b10_1 net_b9_1 net_b8_1 net_b7_1 net_b6_1
+  net_b5_1  net_b4_1  net_b3_1 net_b2_1 net_b1_1 net_b0_1 VSS / PIPE_SAR_DSM_CH
XI_mux11 CKSAMP_CH0 net_b11_0 net_b11_1 VDD B11 VSS / NAND2
XI_mux10 CKSAMP_CH0 net_b10_0 net_b10_1 VDD B10 VSS / NAND2
XI_mux9  CKSAMP_CH0 net_b9_0  net_b9_1  VDD B9  VSS / NAND2
XI_mux8  CKSAMP_CH0 net_b8_0  net_b8_1  VDD B8  VSS / NAND2
XI_mux7  CKSAMP_CH0 net_b7_0  net_b7_1  VDD B7  VSS / NAND2
XI_mux6  CKSAMP_CH0 net_b6_0  net_b6_1  VDD B6  VSS / NAND2
XI_mux5  CKSAMP_CH0 net_b5_0  net_b5_1  VDD B5  VSS / NAND2
XI_mux4  CKSAMP_CH0 net_b4_0  net_b4_1  VDD B4  VSS / NAND2
XI_mux3  CKSAMP_CH0 net_b3_0  net_b3_1  VDD B3  VSS / NAND2
XI_mux2  CKSAMP_CH0 net_b2_0  net_b2_1  VDD B2  VSS / NAND2
XI_mux1  CKSAMP_CH0 net_b1_0  net_b1_1  VDD B1  VSS / NAND2
XI_mux0  CKSAMP_CH0 net_b0_0  net_b0_1  VDD B0  VSS / NAND2
.ENDS

* ============================================================
* END OF FILE  (schematic view)
* ============================================================
